US06235789B1
5,6,7-Trimethoxy-1-indanone
A mixture of 3-(3,4,5-trimethoxyphenyl)propionic acid (9.40 g, 39.1 mmol) and polyphosphoric acid (50 g) was stirred for 2 hours at 80° C. To the reaction mixture was added water, which was subjected to extraction with ethyl acetate. The extract solution was washed with brine, which was dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was recrystallized from ethyl acetate/isopropyl ether to give 7.71 g (yield 89%) of the above-titled compound, m.p. 114-115° C.

reactant | 3-(3,4,5-trimethoxyphenyl)propionic acid | 39.1 mmol, 9.40 g | COC=1C=C(C=C(C1OC)OC)CCC(=O)O | C12H16O5
solvent | water | O | H2O
product | 5,6,7-Trimethoxy-1-indanone | 7.71 g, yield 89% | COC=1C=C2CCC(C2=C(C1OC)OC)=O | C12H14O4
